US05015661
Trifluoroacetic anhydride 5.6 ml.
A mixture of 0.5 g (2.16 mmol) of this 4-(trifluoroacetyl)-3,4-dihydro-2H-1,4-benzoxazine, 20 ml of glacial acetic acid and 5 ml of methylene chloride was cooled to 10° in an ice bath. A solution of 1 ml of iodine monochloride in 1 ml of acetic acid was added slowly over a period of 5 minutes Following the addition, the mixture was stirred for 45 minutes and was then diluted with water and a aqueous solution of sodium bisulfite. The product was extracted with ether. The extracts were washed with water, dried and evaporated. Crystallization of the residue from hexane yielded colorless crystals with m.p. 78°-80°.

reactant | 4-(trifluoroacetyl)-3,4-dihydro-2H-1,4-benzoxazine | 2.16 mmol, 0.5 g | FC(C(=O)N1CCOC2=C1C=CC=C2)(F)F | C10H8F3NO2
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | iodine monochloride | 1 ml | ICl | ClI
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
